US08242145B2
Step 1: {3-[4-Bromo-2-(3-methyl-2-oxo-imidazolidin-1-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 116, Step 1, using the following starting materials: [3-(4-bromo-2-bromomethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester and 1-methyl-2-imidazolidinone.

reactant | [3-(4-bromo-2-bromomethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CBr)=O | C18H18Br2O4
reactant | 1-methyl-2-imidazolidinone | CN1C(NCC1)=O | C4H8N2O
product | {3-[4-Bromo-2-(3-methyl-2-oxo-imidazolidin-1-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)Br)CN1C(N(CC1)C)=O)=O | C22H25BrN2O5
